** sch_path: /home/take/Design/tr10_sram/array/8word_x_2bit/sram_8w2b_top.sch
**.subckt sram_8w2b_top VDD WLE DOUT0 VSS A0 WE DIN0 DIN1 PCB DOUT1
*.iopin VDD
*.ipin WLE
*.opin DOUT0
*.iopin VSS
*.ipin A0
*.ipin WE
*.ipin DIN0
*.ipin DIN1
*.ipin PCB
*.opin DOUT1
x2 VDD VSS WL0 WLE A0 WL1 decoder
x3 DIN0 VDD BL0 BLB0 VSS DIN1 BL1 WE BLB1 WEB write_driver
x4 VDD VSS PCB EQEN BL0 BLB0 BL1 BLB1 precharge
x5 VDD VSS BLB0 BLB1 DOUT0 DOUT1 read_buffer
XXM1 WEB WE VSS VSS NMOS w=3.4u l=1u nrd=0 nrs=0
XXM2 WEB WE VDD VDD PMOS w=6.8u l=1u nrd=0 nrs=0
XXM3 EQEN PCB VSS VSS NMOS w=3.4u l=1u nrd=0 nrs=0
XXM4 EQEN PCB VDD VDD PMOS w=6.8u l=1u nrd=0 nrs=0
x1 WL0 BL0 BL1 VDD BLB1 VSS VSS BLB0 VSS VSS VSS VSS VSS WL1 sram_8w2b
**.ends

* expanding   symbol:  decoder.sym # of pins=6
** sym_path: /home/take/Design/tr10_sram/array/8word_x_2bit/decoder.sym
** sch_path: /home/take/Design/tr10_sram/array/8word_x_2bit/decoder.sch
.subckt decoder VDD VSS WL0 WLE A0 WL1
*.iopin VDD
*.iopin VSS
*.ipin WLE
*.opin WL0
*.opin WL1
*.ipin A0
XXM7 A0B A0 VDD VDD PMOS w=6.8u l=1u nrd=0 nrs=0
XXM8 A0B A0 VSS VSS NMOS w=3.4u l=1u nrd=0 nrs=0
XXM9 net2 WLE VDD VDD PMOS w=6.8u l=1u nrd=0 nrs=0
XXM10 net1 WLE VSS VSS NMOS w=6.8u l=1u nrd=0 nrs=0
XXM11 net2 A0B net1 VSS NMOS w=6.8u l=1u nrd=0 nrs=0
XXM12 net2 A0B VDD VDD PMOS w=6.8u l=1u nrd=0 nrs=0
XXM13 WL0 net2 VDD VDD PMOS w=6.8u l=1u nrd=0 nrs=0
XXM14 WL0 net2 VSS VSS NMOS w=3.4u l=1u nrd=0 nrs=0
XXM15 net4 WLE VDD VDD PMOS w=6.8u l=1u nrd=0 nrs=0
XXM16 net3 WLE VSS VSS NMOS w=6.8u l=1u nrd=0 nrs=0
XXM17 net4 A0 net3 VSS NMOS w=6.8u l=1u nrd=0 nrs=0
XXM18 net4 A0 VDD VDD PMOS w=6.8u l=1u nrd=0 nrs=0
XXM19 WL1 net4 VDD VDD PMOS w=6.8u l=1u nrd=0 nrs=0
XXM20 WL1 net4 VSS VSS NMOS w=3.4u l=1u nrd=0 nrs=0
.ends


* expanding   symbol:  write_driver.sym # of pins=10
** sym_path: /home/take/Design/tr10_sram/array/8word_x_2bit/write_driver.sym
** sch_path: /home/take/Design/tr10_sram/array/8word_x_2bit/write_driver.sch
.subckt write_driver DIN0 VDD BL0 BLB0 VSS DIN1 BL1 WE BLB1 WEB
*.ipin DIN0
*.ipin DIN1
*.ipin WE
*.ipin WEB
*.iopin BL0
*.iopin BLB0
*.iopin BL1
*.iopin BLB1
*.iopin VDD
*.iopin VSS
XXM15 DIN0B DIN0 VDD VDD PMOS w=6.8u l=1u nrd=0 nrs=0
XXM16 DIN0B DIN0 VSS VSS NMOS w=3.4u l=1u nrd=0 nrs=0
XXM7 BL0 WE DIN0 VSS NMOS w=5.2u l=1u nrd=0 nrs=0
XXM8 DIN0 WEB BL0 VDD PMOS w=6.8u l=1u nrd=0 nrs=0
XXM1 BLB0 WE DIN0B VSS NMOS w=5.2u l=1u nrd=0 nrs=0
XXM2 DIN0B WEB BLB0 VDD PMOS w=6.8u l=1u nrd=0 nrs=0
XXM3 DIN1B DIN1 VDD VDD PMOS w=6.8u l=1u nrd=0 nrs=0
XXM4 DIN1B DIN1 VSS VSS NMOS w=3.4u l=1u nrd=0 nrs=0
XXM5 BL1 WE DIN1 VSS NMOS w=5.2u l=1u nrd=0 nrs=0
XXM6 DIN1 WEB BL1 VDD PMOS w=6.8u l=1u nrd=0 nrs=0
XXM9 BLB1 WE DIN1B VSS NMOS w=5.2u l=1u nrd=0 nrs=0
XXM10 DIN1B WEB BLB1 VDD PMOS w=6.8u l=1u nrd=0 nrs=0
.ends


* expanding   symbol:  precharge.sym # of pins=8
** sym_path: /home/take/Design/tr10_sram/array/8word_x_2bit/precharge.sym
** sch_path: /home/take/Design/tr10_sram/array/8word_x_2bit/precharge.sch
.subckt precharge VDD VSS PCB EQEN BL0 BLB0 BL1 BLB1
*.iopin VDD
*.iopin VSS
*.ipin PCB
*.ipin EQEN
*.iopin BL0
*.iopin BLB0
*.iopin BL1
*.iopin BLB1
XXM9 BL0 PCB VDD VDD PMOS w=3.4u l=1u nrd=0 nrs=0
XXM10 BLB0 PCB VDD VDD PMOS w=3.4u l=1u nrd=0 nrs=0
XXM11 BL0 EQEN BLB0 VSS NMOS w=3.4u l=1u nrd=0 nrs=0
XXM12 BL1 PCB VDD VDD PMOS w=3.4u l=1u nrd=0 nrs=0
XXM13 BLB1 PCB VDD VDD PMOS w=3.4u l=1u nrd=0 nrs=0
XXM14 BL1 EQEN BLB1 VSS NMOS w=3.4u l=1u nrd=0 nrs=0
.ends


* expanding   symbol:  read_buffer.sym # of pins=6
** sym_path: /home/take/Design/tr10_sram/array/8word_x_2bit/read_buffer.sym
** sch_path: /home/take/Design/tr10_sram/array/8word_x_2bit/read_buffer.sch
.subckt read_buffer VDD VSS BLB0 BLB1 DOUT0 DOUT1
*.iopin VDD
*.iopin VSS
*.ipin BLB0
*.ipin BLB1
*.opin DOUT0
*.opin DOUT1
XXM15 DOUT0 BLB0 VDD VDD PMOS w=6.8u l=1u nrd=0 nrs=0
XXM16 DOUT0 BLB0 VSS VSS NMOS w=3.4u l=1u nrd=0 nrs=0
XXM1 DOUT1 BLB1 VDD VDD PMOS w=6.8u l=1u nrd=0 nrs=0
XXM2 DOUT1 BLB1 VSS VSS NMOS w=3.4u l=1u nrd=0 nrs=0
.ends


* expanding   symbol:  sram_8w2b.sym # of pins=14
** sym_path: /home/take/Design/tr10_sram/array/8word_x_2bit/sram_8w2b.sym
** sch_path: /home/take/Design/tr10_sram/array/8word_x_2bit/sram_8w2b.sch
.subckt sram_8w2b WL0 BL0 BL1 VDD BLB1 VSS WL1 BLB0 WL2 WL3 WL4 WL5 WL6 WL7
*.iopin VDD
*.iopin VSS
*.iopin BL0
*.iopin BLB0
*.iopin BL1
*.iopin BLB1
*.ipin WL0
*.ipin WL1
*.ipin WL2
*.ipin WL3
*.ipin WL4
*.ipin WL5
*.ipin WL6
*.ipin WL7
x1 BL0 BLB0 WL1 VDD VSS sram6t_tr10
x2 BL1 BLB1 WL1 VDD VSS sram6t_tr10
x3 BL0 BLB0 WL0 VDD VSS sram6t_tr10
x4 BL1 BLB1 WL0 VDD VSS sram6t_tr10
x5 BL0 BLB0 WL3 VDD VSS sram6t_tr10
x6 BL1 BLB1 WL3 VDD VSS sram6t_tr10
x7 BL0 BLB0 WL2 VDD VSS sram6t_tr10
x8 BL1 BLB1 WL2 VDD VSS sram6t_tr10
x9 BL0 BLB0 WL5 VDD VSS sram6t_tr10
x10 BL1 BLB1 WL5 VDD VSS sram6t_tr10
x11 BL0 BLB0 WL4 VDD VSS sram6t_tr10
x12 BL1 BLB1 WL4 VDD VSS sram6t_tr10
x13 BL0 BLB0 WL7 VDD VSS sram6t_tr10
x14 BL1 BLB1 WL7 VDD VSS sram6t_tr10
x15 BL0 BLB0 WL6 VDD VSS sram6t_tr10
x16 BL1 BLB1 WL6 VDD VSS sram6t_tr10
.ends


* expanding   symbol:  /home/take/Design/tr10_sram/cell/sram6t_tr10.sym # of pins=5
** sym_path: /home/take/Design/tr10_sram/cell/sram6t_tr10.sym
** sch_path: /home/take/Design/tr10_sram/cell/sram6t_tr10.sch
.subckt sram6t_tr10 BL BLB WL VDD VSS
*.iopin BL
*.iopin BLB
*.ipin WL
*.iopin VDD
*.iopin VSS
XXM1 Q QB VDD VDD PMOS w=3.4u l=1u nrd=0 nrs=0
XXM2 QB Q VDD VDD PMOS w=3.4u l=1u nrd=0 nrs=0
XXM4 QB Q VSS VSS NMOS w=6.8u l=1u nrd=0 nrs=0
XXM3 Q QB VSS VSS NMOS w=6.8u l=1u nrd=0 nrs=0
XXM5 BL WL Q VSS NMOS w=5.1u l=1u nrd=0 nrs=0
XXM6 BLB WL QB VSS NMOS w=5.1u l=1u nrd=0 nrs=0
.ends

.end
