** sch_path: /home/take/Design/tr10_sram/array/8word_x_2bit/tb_sram_2w8b.sch
.subckt tb_sram_2w8b

VVDD VDD 0 5
VDIN0 DIN0 0 PWL(0 5 19.9n 5 20n 0 100n 0)
VVSS VSS 0 0
VWE WE 0 PWL(0 0 4.9n 0 5n 5 14.9n 5 15n 0 19.9n 0 20n 5 29.9n 5 30n 0 100n 0)
VPCB PCB 0 PWL(0 5 34.9n 5 35n 0 39.9n 0 40n 5 59.9n 5 60n 0 64.9n 0 65n 5 100n 5)
x2 VDD VSS WL0 WLE A0 WL1 decoder
VWLE WLE 0 PWL(0 0 4.9n 0 5n 5 14.9n 5 15n 0 19.9n 0 20n 5 29.9n 5 30n 0 44.9n 0 45n 5 54.9n 5 55n 0 69.9n 0 70n 5 79.9n 5 80n 0
+ 100n 0)
VA0 A0 0 PWL(0 0 16.9n 0 17n 5 31.9n 5 32n 0 56.9n 0 57n 5 100n 5)
x3 DIN0 VDD BL0 BLB0 VSS VSS BL1 WE BLB1 WEB write_driver
VDIN7 DIN7 0 PWL(0 0 19.9n 0 20n 5 100n 5)
x4 VDD VSS PCB EQEN BL0 BLB0 BL1 BLB1 precharge
x5 VDD VSS BLB0 BLB1 DOUT0 DOUT1 read_buffer
MXM1 WEB WE VSS VSS NMOS w=3.4u l=1u
MXM2 WEB WE VDD VDD PMOS w=6.8u l=1u
MXM3 EQEN PCB VSS VSS NMOS w=3.4u l=1u
MXM4 EQEN PCB VDD VDD PMOS w=6.8u l=1u
x6 WL0 VDD VSS WL1 BLB3 BL1 BLB0 BLB7 BLB2 BL3 BLB6 BL4 BLB4 BL5 BL6 BLB5 BL2 BL7 BLB1 BL0 sram_2w8b
x1 VSS VDD BL2 BLB2 VSS VSS BL3 WE BLB3 WEB write_driver
x7 VSS VDD BL4 BLB4 VSS VSS BL5 WE BLB5 WEB write_driver
x8 VSS VDD BL6 BLB6 VSS DIN7 BL7 WE BLB7 WEB write_driver
x9 VDD VSS PCB EQEN BL2 BLB2 BL3 BLB3 precharge
x10 VDD VSS PCB EQEN BL4 BLB4 BL5 BLB5 precharge
x11 VDD VSS PCB EQEN BL6 BLB6 BL7 BLB7 precharge
x12 VDD VSS BLB2 BLB3 DOUT2 DOUT3 read_buffer
x13 VDD VSS BLB4 BLB5 DOUT4 DOUT5 read_buffer
x14 VDD VSS BLB0 BLB1 DOUT6 DOUT7 read_buffer
**** begin user architecture code
 .include /home/take/pdk/TR-1um/libs.tech/spice/models/ip62_models


.tran 10p 100n

.control
run

* Control signals
plot v(pcb) v(eqen)+6
plot v(we) v(web)+6
plot v(wl0) v(wl1)+6

* Input / Output
plot v(din0) v(din7)+6
plot v(dout1) v(dout7)+6

* Read bit-line differential
plot v(bl1) v(blb1)
plot v(bl7) v(blb7)

.endc


**** end user architecture code
.ends

* expanding   symbol:  decoder.sym # of pins=6
** sym_path: /home/take/Design/tr10_sram/array/8word_x_2bit/decoder.sym
** sch_path: /home/take/Design/tr10_sram/array/8word_x_2bit/decoder.sch
.subckt decoder VDD VSS WL0 WLE A0 WL1
*.PININFO VDD:B VSS:B WLE:I WL0:O WL1:O A0:I
MXM7 A0B A0 VDD VDD PMOS w=6.8u l=1u
MXM8 A0B A0 VSS VSS NMOS w=3.4u l=1u
MXM9 net2 WLE VDD VDD PMOS w=6.8u l=1u
MXM10 net1 WLE VSS VSS NMOS w=6.8u l=1u
MXM11 net2 A0B net1 VSS NMOS w=6.8u l=1u
MXM12 net2 A0B VDD VDD PMOS w=6.8u l=1u
MXM13 WL0 net2 VDD VDD PMOS w=6.8u l=1u
MXM14 WL0 net2 VSS VSS NMOS w=3.4u l=1u
MXM15 net4 WLE VDD VDD PMOS w=6.8u l=1u
MXM16 net3 WLE VSS VSS NMOS w=6.8u l=1u
MXM17 net4 A0 net3 VSS NMOS w=6.8u l=1u
MXM18 net4 A0 VDD VDD PMOS w=6.8u l=1u
MXM19 WL1 net4 VDD VDD PMOS w=6.8u l=1u
MXM20 WL1 net4 VSS VSS NMOS w=3.4u l=1u
.ends


* expanding   symbol:  write_driver.sym # of pins=10
** sym_path: /home/take/Design/tr10_sram/array/8word_x_2bit/write_driver.sym
** sch_path: /home/take/Design/tr10_sram/array/8word_x_2bit/write_driver.sch
.subckt write_driver DIN0 VDD BL0 BLB0 VSS DIN1 BL1 WE BLB1 WEB
*.PININFO DIN0:I DIN1:I WE:I WEB:I BL0:B BLB0:B BL1:B BLB1:B VDD:B VSS:B
MXM15 DIN0B DIN0 VDD VDD PMOS w=6.8u l=1u
MXM16 DIN0B DIN0 VSS VSS NMOS w=3.4u l=1u
MXM7 BL0 WE DIN0 VSS NMOS w=5.2u l=1u
MXM8 DIN0 WEB BL0 VDD PMOS w=6.8u l=1u
MXM1 BLB0 WE DIN0B VSS NMOS w=5.2u l=1u
MXM2 DIN0B WEB BLB0 VDD PMOS w=6.8u l=1u
MXM3 DIN1B DIN1 VDD VDD PMOS w=6.8u l=1u
MXM4 DIN1B DIN1 VSS VSS NMOS w=3.4u l=1u
MXM5 BL1 WE DIN1 VSS NMOS w=5.2u l=1u
MXM6 DIN1 WEB BL1 VDD PMOS w=6.8u l=1u
MXM9 BLB1 WE DIN1B VSS NMOS w=5.2u l=1u
MXM10 DIN1B WEB BLB1 VDD PMOS w=6.8u l=1u
.ends


* expanding   symbol:  precharge.sym # of pins=8
** sym_path: /home/take/Design/tr10_sram/array/8word_x_2bit/precharge.sym
** sch_path: /home/take/Design/tr10_sram/array/8word_x_2bit/precharge.sch
.subckt precharge VDD VSS PCB EQEN BL0 BLB0 BL1 BLB1
*.PININFO VDD:B VSS:B PCB:I EQEN:I BL0:B BLB0:B BL1:B BLB1:B
MXM9 BL0 PCB VDD VDD PMOS w=3.4u l=1u
MXM10 BLB0 PCB VDD VDD PMOS w=3.4u l=1u
MXM11 BL0 EQEN BLB0 VSS NMOS w=3.4u l=1u
MXM12 BL1 PCB VDD VDD PMOS w=3.4u l=1u
MXM13 BLB1 PCB VDD VDD PMOS w=3.4u l=1u
MXM14 BL1 EQEN BLB1 VSS NMOS w=3.4u l=1u
.ends


* expanding   symbol:  read_buffer.sym # of pins=6
** sym_path: /home/take/Design/tr10_sram/array/8word_x_2bit/read_buffer.sym
** sch_path: /home/take/Design/tr10_sram/array/8word_x_2bit/read_buffer.sch
.subckt read_buffer VDD VSS BLB0 BLB1 DOUT0 DOUT1
*.PININFO VDD:B VSS:B BLB0:I BLB1:I DOUT0:O DOUT1:O
MXM15 DOUT0 BLB0 VDD VDD PMOS w=6.8u l=1u
MXM16 DOUT0 BLB0 VSS VSS NMOS w=3.4u l=1u
MXM1 DOUT1 BLB1 VDD VDD PMOS w=6.8u l=1u
MXM2 DOUT1 BLB1 VSS VSS NMOS w=3.4u l=1u
.ends


* expanding   symbol:  sram_2w8b.sym # of pins=20
** sym_path: /home/take/Design/tr10_sram/array/8word_x_2bit/sram_2w8b.sym
** sch_path: /home/take/Design/tr10_sram/array/8word_x_2bit/sram_2w8b.sch
.subckt sram_2w8b WL0 VDD VSS WL1 BLB3 BL1 BLB0 BLB7 BLB2 BL3 BLB6 BL4 BLB4 BL5 BL6 BLB5 BL2 BL7 BLB1 BL0
*.PININFO VDD:B VSS:B WL0:I WL1:I BL0:B BLB0:B BL1:B BLB1:B BL2:B BLB2:B BL3:B BLB3:B BL4:B BLB4:B BL5:B BLB5:B BL6:B BLB6:B BL7:B
*+ BLB7:B
x1 BL0 BLB0 WL1 VDD VSS sram6t_tr10
x2 BL0 BLB0 WL0 VDD VSS sram6t_tr10
x3 BL1 BLB1 WL0 VDD VSS sram6t_tr10
x4 BL1 BLB1 WL1 VDD VSS sram6t_tr10
x5 BL2 BLB2 WL1 VDD VSS sram6t_tr10
x6 BL2 BLB2 WL0 VDD VSS sram6t_tr10
x7 BL3 BLB3 WL0 VDD VSS sram6t_tr10
x8 BL3 BLB3 WL1 VDD VSS sram6t_tr10
x9 BL4 BLB4 WL1 VDD VSS sram6t_tr10
x10 BL4 BLB4 WL0 VDD VSS sram6t_tr10
x11 BL5 BLB5 WL0 VDD VSS sram6t_tr10
x12 BL5 BLB5 WL1 VDD VSS sram6t_tr10
x13 BL6 BLB6 WL1 VDD VSS sram6t_tr10
x14 BL6 BLB6 WL0 VDD VSS sram6t_tr10
x15 BL7 BLB7 WL0 VDD VSS sram6t_tr10
x16 BL7 BLB7 WL1 VDD VSS sram6t_tr10
.ends


* expanding   symbol:  sram6t_tr10.sym # of pins=5
** sym_path: /home/take/Design/tr10_sram/array/8word_x_2bit/sram6t_tr10.sym
** sch_path: /home/take/Design/tr10_sram/array/8word_x_2bit/sram6t_tr10.sch
.subckt sram6t_tr10 BL BLB WL VDD VSS
*.PININFO BL:B BLB:B WL:I VDD:B VSS:B
MXM1 net1 net2 VDD VDD PMOS w=3.4u l=1u
MXM2 net2 net1 VDD VDD PMOS w=3.4u l=1u
MXM4 net2 net1 VSS VSS NMOS w=6.8u l=1u
MXM3 net1 net2 VSS VSS NMOS w=6.8u l=1u
MXM5 BL WL net1 VSS NMOS w=5.1u l=1u
MXM6 BLB WL net2 VSS NMOS w=5.1u l=1u
.ends

